* AD8610 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 10/26V, JFET, OP, Low Ib, Precision, 1X
* Developed by: ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.4 HH, ADSJ Apps – 2/2011 Fixed E3 Syntax; CMRR mod, en, Isy
* 1.3 HH, ADSJ Apps – Corrected CCM and CDM  7/2010
* 1.2 TW, fixed power supply current polarity
* 1.1 HH, ADSJ Apps – Added Cdiff, Cin1, and Cin2                   
* 1.0 SB, ADSiV apps
* Copyright 2010, 2011, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
* This model simulates typical value parameters
* only at Vs=±13V at T=25°C
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8610   1 2 99 50 30
*
* INPUT STAGE
*
R3   5  50  1.464E3
R4   6  50  1.464E3
Cdiff  1   2    5.87E-12
Cin1  1   50    14.7E-12
Cin2  2   50    14.7E-12
I1   99  4    2.733E-3
IOS  1   2    1.75E-12
EOS  7  1    POLY(3)  (17, 98) (73, 98)(42,0)  45E-6  1 1 1 
V10   4     55 DC 3.8
D10  55   99 DX
GN1  0   1    45  0  1E-6
GN2  0   2    48  0  1E-6
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4, 2) (5, 2) (50, 2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4, 7) (6, 7) (50, 7) 0 1E-12 1E-12 1E-12
*  
* SECOND STAGE & POLE AT 135 Hz
*
R5   9  98   4.72E4
C3   9  98   2.4E-8
G1   98  9    5  6 3.31E-1
V2   8  98    11.2
D1   9   8    DX
V3   98 10    11.4
D2   10  9    DX
*
* Second pole 
*
R13  18 98     1E3
C9   18 98     2.4E-12
G5   98 18 9  98  1E-3
*
* COMMON-MODE GAIN NETWORK 
*
E3   16 98     POLY(2) (1,98)  (2,98) 0 1.628E-03 1.628E-03
R11  16 17     5.184E+00
R12  17 98     8.842E-03
C8   17 16     1.00E-06
*
* PSRR
*
EPSY 72 98 POLY(1) (99,50) 0 1.918E-01
RPS3 72 73 1.061E+03
RPS4 73 98 3.183E-02
CPS3 72 73 1E-06
*
* VOLTAGE NOISE GENERATOR
*
VN1  41  0    DC 1
DN1  41 42    DEN
DN2  42 43    DEN
VN2  0  43    DC 1
*
* CURRENT NOISE GENERATOR
*
VN3  44  0    DC 1
DN3  44 45    DIN
DN4  45 46    DIN
VN4  0  46    DC 1
*
* CURRENT NOISE GENERATOR
*
VN5  47  0    DC 1
DN5  47 48    DIN
DN6  48 49    DIN
VN6  0  49    DC 1
*  
R14  24 99     500E3
R15  24 50     500E3
EREF 98  0    24  0   1
GSY  99 50 POLY(1) (99 50)  -0.36E-3 15E-06
*
* OUTPUT STAGE
*
R16  29 99     50
R17  29 50     50
L1   29 30     1E-8
G6   27 50     18 29  2.000E-02
G7   28 50     29 18  2.000E-02
G8   29 99     99 18  2.000E-02
G9   50 29     18 50  2.000E-02
V4   25 29     0.675
V5   29 26     0.675
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1
*
* MODELS USED
*
.MODEL JX PJF(BETA=1.4E-2 VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-15 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-15 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=3500, KF=1.75E-14 AF=1)
.MODEL DIN  D(IS=1E-12 RS=12, KF=1.0E-16 AF=1)
.ENDS AD8610
*




